US06310056B1
b) (1S,5R,6S)-2-(3,6-dimethylimidazo[5,1-b]thiazolium-2-yl)-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate (inner salt)
To a solution of 89.1 mg of 4-nitrobenzyl (1S,5R,6S)-2-(3,6-dimethylimidazo[5,1-b]thiazolium-2-yl)-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate iodide in 2 ml of THF and 2 ml of {fraction (1/15)} M phosphate buffer (pH 6.8) was added 102.7 mg of 10% Pd-C. The reactor was purged with hydrogen, the reaction mixture was stirred at room temperature for 5 hours. The catalyst was collected by filtration, and washed with water. The filtrate was diluted with 20 ml of ethyl acetate 20 ml, separated, and the organic layer was further washed with water. The combined aqueous layer was concentrated under reduced pressure to a volume of about 30 ml. The concentrate was purified by column chromatography on DIAION HP-20 to give 17.0 mg of the title compound.

reactant | 4-nitrobenzyl (1S,5R,6S)-2-(3,6-dimethylimidazo[5,1-b]thiazolium-2-yl)-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate iodide | 89.1 mg | [I-].CC=1[N+]=2C(SC1C=1[C@@H]([C@H]3N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]3[C@@H](C)O)=O)C)=CN(C2)C
reactant | phosphate | pH 6.8 | P(=O)([O-])([O-])[O-]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
catalyst | Pd-C | 102.7 mg | [Pd] | Pd
product | (1S,5R,6S)-2-(3,6-dimethylimidazo[5,1-b]thiazolium-2-yl)-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate | 17.0 mg | CC=1[N+]=2C(SC1C=1[C@@H]([C@H]3N(C1C(=O)[O-])C([C@@H]3[C@@H](C)O)=O)C)=CN(C2)C | C17H19N3O4S
